US04224371
10 g of the syn isomer of 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid containing 7.2% of ethanol were added to a solution of 2 g of sodium acetate in 7.5 ml of water and 20 ml of absolute ethanol and the mixture was stirred for 15 minutes, was treated with 1.5 g of activated carbon and was filtered. The filter was washed twice with 5 ml of a 9-1 ethanol-water mixture and the filtrate was added dropwise over 50 minutes with stirring at room temperature to 80 ml of ethanol which caused precipitation of the sodium salt. The mixture was stirred for 2 hours at 0° C. and was vacuum filtered. The crystals were washed with ethanol and dried under reduced pressure to obtain 8.45 g of the crystalline D form of the syn isomer of sodium 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme- 4-carboxylate containing 5.7% of water.

reactant | 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C16H17N5O7S2
reactant | sodium acetate | 2 g | C(C)(=O)[O-].[Na+]
solvent | water | 7.5 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | sodium 3-acetoxymethyl-7-[2-(2-amino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme- 4-carboxylate | 5.7% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(C(=NOC)C=2N=C(SC2)N)=O)=O.[Na+] | InChI=1S/C16H17N5O7S2.Na/c1-6(22)28-3-7-4-29-14-10(13(24)21(14)11(7)15(25)26)19-12(23)9(20-27-2)8-5-30-16(17)18-8;/h5,10,14H,3-4H2,1-2H3,(H2,17,18)(H,19,23)(H,25,26);/q;+1/p-1/t10?,14-;/m1./s1
